US05709867
(a) Preparation of allyl 4-[α-acetoxymethyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)methylcarbamoyl]benzoate
395 mg (0.9 mmol) of allyl 4-[α-hydroxymethyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)methylcarbamoyl]benzoate, 15 ml of pyridine and 200 μl (1.8 mmol) of acetic anhydride were introduced into a round-bottomed flask. The mixture was stirred at room temperature for 8 hours, the reaction medium was poured into water, and extracted with ethyl ether. The organic phase was decanted off, washed with water, dried over magnesium sulfate and evaporated. 435 mg (100%) of the expected compound were recovered in the form of a colorless oil.

reactant | allyl 4-[α-hydroxymethyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)methylcarbamoyl]benzoate | 0.9 mmol, 395 mg | OCC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)CNC(=O)C1=CC=C(C(=O)OCC=C)C=C1 | C27H33NO4
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.8 mmol, 200 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | allyl 4-[α-acetoxymethyl-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)methylcarbamoyl]benzoate | C(C)(=O)OCC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)CNC(=O)C1=CC=C(C(=O)OCC=C)C=C1 | C29H35NO5
